US06855710B2
(Z)-3-[1-(3-aminophenylamino)-1-phenyl-methylidene]-2-indolinone
3.5 g (0.01 mol) of (Z)-3-[1-(3-nitrophenylamino)-1-phenyl-methylidene}-2-indolinone are dissolved in 200 ml of THF and after the addition of 0.5 g of palladium/charcoal hydrogenated with hydrogen. Then the catalyst is filtered off and concentrated by evaporation.

reactant | (Z)-3-[1-(3-nitrophenylamino)-1-phenyl-methylidene}-2-indolinone | 0.01 mol, 3.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C21H15N3O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | palladium/charcoal | 0.5 g | [Pd] | Pd
product | (Z)-3-[1-(3-aminophenylamino)-1-phenyl-methylidene]-2-indolinone | NC=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C21H17N3O
